US07348456B2
Step A: 2-(4-Trifluoromethyl-2-pyridyloxy)propionic acid
To a suspension of lithium lactate (7.8 g, 81 mmol) in 100 mL of anhydrous dimethylformamide was added sodium hydride (60% dispersion in mineral oil, 3.2 g, 80 mmol). After stirring at room temperature for 30 min, 2-chloro-4-trifluromethylpyridine (10 g, 55 mmol) was added, and the mixture was heated at 100° C. overnight. The reaction was cooled to room temperature, poured into 500 mL of water, and was washed with hexane (200 mL). The aqueous solution was acidified with concentrated hydrochloric acid (pH>2), and was extracted with ether (2×500 mL). The combined extracts were washed with water and brine, dried over anhydrous sodium sulfate, filtered and concentrated to dryness to give the title compound.

reactant | lithium lactate | 81 mmol, 7.8 g | C(C(O)C)(=O)[O-].[Li+]
reactant | sodium hydride | 80 mmol, 3.2 g | [H-].[Na+]
reactant | 2-chloro-4-trifluromethylpyridine | 55 mmol, 10 g | ClC1=NC=CC(=C1)C(F)(F)F | C6H3ClF3N
reactant | water | 500 mL | O | H2O
solvent | dimethylformamide | 100 mL | CN(C=O)C | C3H7NO
product | 2-(4-Trifluoromethyl-2-pyridyloxy)propionic acid | FC(C1=CC(=NC=C1)OC(C(=O)O)C)(F)F | C9H8F3NO3
